US07396836B2
1-{4-[2-Amino-4,6-di(2-furyl)-5-pyrimidinyl]-2-pyridyl}-4-piperidinecarboxylic acid
In a reaction vessel, ethyl1-{4-[2-amino-4,6-di(2-furyl)-5-pyrimidinyl]-2-pyridyl}-4-piperidinecarboxylate (59 mg, 0.128 mmol) was suspended in methanol (0.8 ml). A 5N aqueous sodium hydroxide solution (0.2 ml) was added therto, followed by stirring at room temperature for 15 hours. After the reaction was terminated, the reaction mixture was extracted with ethyl acetate, washed with water and brine, dried over anhydrous sodium sulfate and then the filtrate was concentrated, to give the title compound (20 mg, 36%) as a white solid.

reactant | ethyl1-{4-[2-amino-4,6-di(2-furyl)-5-pyrimidinyl]-2-pyridyl}-4-piperidinecarboxylate | 0.128 mmol, 59 mg | C(C)OC(=O)C1CCN(CC1)C1=NC=CC(=C1)C=1C(=NC(=NC1C=1OC=CC1)N)C=1OC=CC1 | C25H25N5O4
reactant | sodium hydroxide | 5N, 0.2 ml | [OH-].[Na+]
solvent | methanol | 0.8 ml | CO | CH4O
product | 1-{4-[2-Amino-4,6-di(2-furyl)-5-pyrimidinyl]-2-pyridyl}-4-piperidinecarboxylic acid | 20 mg, 36% | NC1=NC(=C(C(=N1)C=1OC=CC1)C1=CC(=NC=C1)N1CCC(CC1)C(=O)O)C=1OC=CC1 | C23H21N5O4
